US09212187B2
Synthesis of 7-[3-(3-aminopyridin-4-ylamino)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
10% Palladium on carbon(0.7 g) was added to a methanol solution (30 ml) of 1-ethyl-3,3,5-trimethyl-7-[3-(3-nitropyridin-4-ylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(1.8 g). The mixture was subjected to catalytic reduction at room temperature under normal pressure. The reaction mixture was subjected to celite filtration to remove the catalyst. The filtrate was condensed under reduced pressure to give the title compound(1.4 g) as an orange amorphous solid.

reactant | 1-ethyl-3,3,5-trimethyl-7-[3-(3-nitropyridin-4-ylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.8 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNC2=C(C=NC=C2)[N+](=O)[O-] | C22H27N5O5
catalyst | Palladium on carbon | 0.7 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 7-[3-(3-aminopyridin-4-ylamino)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.4 g | NC=1C=NC=CC1NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C22H29N5O3
